US04179505
A solution of 2.8 parts of 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -(2-methoxyethyl)-1,2-benzenediamine, 20 parts of trimethoxymethane and 0.39 parts of acetic acid is stirred and refluxed for 1.50 hours. The reaction mixture is evaporated and the residue is dissolved in a diluted hydrochloric acid solution. The free base is liberated in the conventional manner with ammonium hydroxide and extracted with dichloromethane. The extract is dried, filtered and evaporated. The residue is washed with 2,2'-oxybispropane and dried, yielding 2 parts (70%) of 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-(2-methoxyethyl)-1H-benzimidazole; mp. 161.7° C.

reactant | 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -(2-methoxyethyl)-1,2-benzenediamine | C1(=CC=CC=C1)C(N1CCN(CC1)CC=1C=C(C(=CC1)NCCOC)N)C1=CC=CC=C1 | C27H34N4O
reactant | trimethoxymethane | COC(OC)OC | C4H10O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-(2-methoxyethyl)-1H-benzimidazole | 70% | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C=N2)CCOC)C=C1)C1=CC=CC=C1 | C28H32N4O
